US05648536
Preparation of N,N'-bis(2,3-dihydroxypropyl)-5-(2-chloroacetamido)-2,4,6-triiodoisophthalamide
N,N'-bis[2,3-di(2-chloroacetoxy)propyl]-5-(2-chloroacetamido)-2,4,6-triiodoisophthalamide in N,N-dimethylacetamide, from Example 1, was hydrolyzed by adding 156 mL of 10N sodium hydroxide solution (1.56 moles). Water (100 mL) was then added to the mixture to give a homogeneous solution. 1N Hydrochloric acid (59 mL, 0.59 moles) was added to precipitate the N,N'-bis (2,3-dihydroxypropyl)-5-(2-chloroacetamido)-2,4,6-triiodoisophthalamide. The precipitate was collected and washed with water. The wet product was dried at 60° C. in a vacuum oven to give 81.69 g of product, 88.4% yield. The material was 100 % pure by HPLC analysis.

reactant | N,N'-bis[2,3-di(2-chloroacetoxy)propyl]-5-(2-chloroacetamido)-2,4,6-triiodoisophthalamide | ClCC(=O)OC(CNC(C1=C(C(C(=O)NCC(COC(CCl)=O)OC(CCl)=O)=C(C(=C1I)NC(CCl)=O)I)I)=O)COC(CCl)=O | C24H23Cl5I3N3O11
reactant | sodium hydroxide | 1.56 moles, 10N, 156 mL | [OH-].[Na+]
reactant | Water | 100 mL | O | H2O
reactant | Hydrochloric acid | 0.59 moles, 1N, 59 mL | Cl | ClH
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | N,N'-bis(2,3-dihydroxypropyl)-5-(2-chloroacetamido)-2,4,6-triiodoisophthalamide | 81.69 g, 88.4% yield | OC(CNC(C1=C(C(C(=O)NCC(CO)O)=C(C(=C1I)NC(CCl)=O)I)I)=O)CO | C16H19ClI3N3O7
